* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\testing\testing.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V5 P001 0 SINE(0 10m 1000 0 0) AC 1m
R4 P001 Vin+ 1
M10 +Vcc N002 N008 N008 BS170
R36 +Vcc N002 620k
R37 N002 -Vcc 910k
R38 N008 -Vcc 1k
Q1 N002 N006 N010 0 BC547B
R1 +Vcc N002 3k
R2 N010 -Vcc 300
R3 N006 -Vcc 1Meg
R5 +Vcc N006 1Meg
M2 N007 Vin+ N011 N011 BS170
R6 +Vcc N005 12k
R7 +Vcc N007 12k
M1 N005 0 N012 N012 BS170
C2 N006 N005 1µ
M3 +Vcc N001 N003 N003 BS170
R8 +Vcc N001 600k
R9 N001 -Vcc 900k
R10 N003 -Vcc 100
Q2 N001 N004 N009 0 BC547B
R11 +Vcc N001 3k
R12 N009 -Vcc 300
R13 N004 -Vcc 1Meg
R14 +Vcc N004 1Meg
C4 Vout N003 100n
R15 0 NC_01 100
R16 Vout Vin- 20k
R17 Vin- 0 1k
R18 I_ee1 N011 1k
R19 N012 I_ee1 1k
C3 -Vcc N003 5µ
Q3 N014 N014 -Vcc 0 BC547B
Q4 N013 N014 -Vcc 0 BC547B
Q5 I_ee1 N013 N014 0 BC547B
R20 +Vcc N013 22k
C5 NC_02 N008 1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .1 0 0.01
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
;ac dec 10 100m 1Meg
.backanno
.end
