* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v10\BJT.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V3 P001 0 SINE(0 1m 1000 0 0) AC 1m
R1 P001 Vin+ 1
Q1 N001 N002 N003 0 BC547B
R5 +Vcc N001 2.1k
R6 N003 -Vcc 300
R7 N002 -Vcc 333k
R8 +Vcc N002 1Meg
C2 Vout N001 1µ
C6 N002 Vin+ 1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.1 0 0.001
;.ac dec 10 1 100k
* Z_in ~ 80k\nZ_out ~ Rc
.backanno
.end
