* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v8\Draft1.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V3 P001 0 SINE(0 10m 1000 0 0) AC 1m
R1 P001 Vin+ 1
M1 +Vcc N005 N015 N015 BS170
R2 +Vcc N005 2000k
R3 N005 -Vcc 666k
R4 N015 -Vcc 1k
Q1 N005 N013 N018 0 BC547B
R5 +Vcc N005 1000
R6 N018 -Vcc 200
R7 N013 -Vcc 666k
R8 +Vcc N013 2000k
M2 N014 Vin+ N019 N019 BS170
R9 +Vcc N011 12k
R10 +Vcc N014 12k
M3 N011 Vin- N020 N020 BS170
C1 N013 N012 1µ
M4 +Vcc N002 N006 N006 BS170
R11 +Vcc N002 2000k
R12 N002 -Vcc 666k
R13 N006 -Vcc 1k
Q2 N002 N010 N017 0 BC547B
R14 +Vcc N002 1000
R15 N017 -Vcc 200
R16 N010 -Vcc 666k
R17 +Vcc N010 2000k
R18 I_ee1 N019 1k
R19 N020 I_ee1 1k
Q3 N022 N022 -Vcc 0 BC547B
Q4 N021 N022 -Vcc 0 BC547B
Q5 I_ee1 N021 N022 0 BC547B
R20 +Vcc N021 22k
C2 N009 N015 1µ
C3 N007 N006 1µ
C4 N012 N011 1µ
C5 N010 N009 1µ
C6 N008 N007 1µ
M5 +Vcc N001 N003 N003 BS170
R21 +Vcc N001 2000k
R22 N001 -Vcc 666k
R23 N003 -Vcc 1k
Q6 N001 N008 N016 0 BC547B
R24 +Vcc N001 400
R25 N016 -Vcc 200
R26 N008 -Vcc 2000k
R27 +Vcc N008 1000k
C7 N004 N003 1µ
C8 Vout N004 1µ
R28 NC_01 Vin- 10k
R29 Vin- 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
;tran 0 .01 0 0.01
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.ac dec 10 1 500k
.step oct param R 1k 100k 1
.op
.backanno
.end
