* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v10\full_circuit.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
M2 N014 Vin- N018 N018 BS170
R6 +Vcc N007 14k
R7 +Vcc N014 14k
M1 N007 Vin+ N019 N019 BS170
R18 I_ee1 N018 2k
R19 N019 I_ee1 2k
C2 N008 N007 1µ
Q1 N001 N008 N015 0 BC547B
R1 +Vcc N001 2.1k
R2 N015 -Vcc 300
R3 N008 -Vcc 333k
R5 +Vcc N008 1Meg
C3 N002 N001 4.3n
M3 +Vcc N002 N009 N009 BS170
R8 +Vcc N002 1Meg
R9 N002 -Vcc 1.6Meg
R10 N009 -Vcc 1.2k
C5 N010 N009 1µ
R39 NC_01 Vin- 1k
R40 Vin- 0 1k
V3 P001 0 SINE(0 10m 1000 0 0) AC 1 0
R16 P001 Vin+ 1
Q2 N003 N010 N016 0 BC547B
R4 +Vcc N003 2.1k
R11 N016 -Vcc 300
R12 N010 -Vcc 333k
R13 +Vcc N010 1Meg
M5 +Vcc N004 N011 N011 BS170
R14 +Vcc N004 1Meg
R17 N004 -Vcc 1.6Meg
R22 N011 -Vcc 1.2k
C6 N012 N011 1µ
Q3 N005 N012 N017 0 BC547B
R23 +Vcc N005 2.1k
R24 N017 -Vcc 300
R25 N012 -Vcc 333k
R26 +Vcc N012 1Meg
M6 +Vcc N006 N013 N013 BS170
R27 +Vcc N006 1Meg
R28 N006 -Vcc 1.6Meg
R29 N013 -Vcc 1.2k
C9 N001 -Vcc 30n
C10 N004 N003 4.3n
C11 N003 -Vcc 30n
C4 N006 N005 4.3n
C7 N005 -Vcc 30n
C8 Vout N013 1µ
Q4 N021 N021 -Vcc 0 BC547B
Q5 N020 N021 -Vcc 0 BC547B
Q6 I_ee1 N020 N021 0 BC547B
R30 +Vcc N020 22k
R15 NC_02 0 150
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
* .ac dec 100 .001 1000k\n.tran 0 .01 0 0.001
.tran 0 .1 0 0.001
.backanno
.end
