* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v2\lab6.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V5 P001 0 SINE(0 1m 50 0 0 0)
R4 P001 Vod+ 1
M10 +Vcc N004 N007 N007 BS170
R36 +Vcc N004 600k
R37 N004 0 900k
R38 N007 0 100
Q1 N003 N010 N013 0 BC547B
R1 +Vcc N003 1890
R2 N013 0 270
R3 N010 0 1.4Meg
R5 +Vcc N010 1.4Meg
C1 N008 N007 1µ
C3 N004 N003 1µ
M2 N011 0 N014 N014 BS170
R6 +Vcc N009 12k
R7 +Vcc N011 12k
I1 N014 0 1m
M1 N009 Vod+ N014 N014 BS170
C2 N010 N009 1µ
M3 +Vcc N002 N005 N005 BS170
R8 +Vcc N002 600k
R9 N002 0 900k
R10 N005 0 100
Q2 N001 N008 N012 0 BC547B
R11 +Vcc N001 1890
R12 N012 0 270
R13 N008 0 1.4Meg
R14 +Vcc N008 1.4Meg
C4 N006 N005 1µ
C5 N002 N001 1µ
R15 0 NC_01 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1 0 0.001
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.backanno
.end
