* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v9\v9.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V5 P001 0 SINE(0 10m 1000 0 0) AC 1m
R4 P001 Vin+ 1
M10 0 N006 N017 N017 BS170
R38 N017 -Vcc 1k
Q1 N005 N015 N020 0 BC547B
R1 +Vcc N005 1k
R2 N020 -Vcc 200
R3 N015 -Vcc 2Meg
R5 +Vcc N015 666k
M2 N016 0 N021 N021 BS170
R6 +Vcc N014 12k
R7 +Vcc N016 12k
M1 N014 Vin+ N022 N022 BS170
R18 I_ee1 N021 1k
R19 N022 I_ee1 1k
M3 +Vcc N012 N007 N007 BS170
R8 +Vcc N012 666k
R9 N012 0 2000k
R10 N007 0 1k
Q2 N003 N011 N019 0 BC547B
R11 +Vcc N003 1k
R12 N019 -Vcc 200
R13 N011 -Vcc 2000k
R14 +Vcc N011 666k
C4 N011 N010 1µ
C5 N010 N017 1µ
M4 +Vcc N002 N013 N013 BS170
R16 +Vcc N002 666k
R17 N002 0 2000k
R21 N013 0 1k
Q3 N001 N009 N018 0 BC547B
R22 +Vcc N001 1k
R23 N018 -Vcc 200
R24 N009 -Vcc 2000k
R25 +Vcc N009 666k
C10 N009 N008 1µ
C11 N008 N007 1µ
R26 NC_01 Vin- 10k
R27 Vin- 0 1k
C13 Vout N013 26µ
C8 N001 0 50n
C12 N002 N001 5n
C3 N015 N014 1µ
C1 N004 N003 1µ
R15 N006 -Vcc 666k
R20 +Vcc N006 2Meg
C2 N006 N005 1µ
Q4 N024 N024 -Vcc 0 BC547B
Q5 N023 N024 -Vcc 0 BC547B
Q6 I_ee1 N023 N024 0 BC547B
R28 +Vcc N023 22k
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .01 0 0.001
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
;.ac dec 10 1 100k
.backanno
.end
