* C:\Users\nick\Downloads\ELEC3400\ltspice\group_project\v8\yay.asc
V1 -Vcc 0 -12
V2 +Vcc 0 12
V5 P001 0 SINE(0 10m 1000 0 0) AC 1m
R4 P001 Vin+ 1
M10 +Vcc N004 N014 N014 BS170
R36 +Vcc N004 2000k
R37 N004 -Vcc 666k
R38 N014 -Vcc 1k
Q1 N003 N012 N016 0 BC547B
R1 +Vcc N003 1.6k
R2 N016 -Vcc 200
R3 N012 -Vcc 666k
R5 +Vcc N012 2000k
M2 N013 Vin+ N017 N017 BS170
R6 +Vcc N009 12k
R7 +Vcc N013 12k
M1 N009 Vin- N018 N018 BS170
C2 N012 N011 1µ
M3 +Vcc N002 N005 N005 BS170
R8 +Vcc N002 666k
R9 N002 -Vcc 2000k
R10 N005 -Vcc 1k
Q2 N001 N008 N015 0 BC547B
R11 +Vcc N001 1.6k
R12 N015 -Vcc 200
R13 N008 -Vcc 2000k
R14 +Vcc N008 666k
R18 I_ee1 N017 200
R19 N018 I_ee1 200
Q3 N020 N020 -Vcc 0 BC547B
Q4 N019 N020 -Vcc 0 BC547B
Q5 I_ee1 N019 N020 0 BC547B
R20 +Vcc N019 22k
C5 N007 N014 1µ
C3 N006 N005 1µ
C1 N011 N010 1µ
C4 N008 N007 1µ
C6 Vout N006 1µ
R16 Vout Vin- {R}
R17 Vin- 0 1k
M5 +Vcc N009 N010 N010 BS170
R29 +Vcc N009 2000k
R30 N009 -Vcc 666k
R31 N010 -Vcc 1k
C7 0 N003 40n
C8 N004 N003 5n
C9 0 N001 40n
C10 N002 N001 5n
.model NPN NPN
.model PNP PNP
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .01 0 0.01
.model BS170 VDMOS VTO=2.33 RG=270 RS=1.572 RD=1.436 RB=.768 KP=0.08 W=1 L=1 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
;ac dec 10 1 500k
.step oct param R 1k 100k 1
.op
.backanno
.end
